US06730684B1
a) N-methyl-N-[(1-methyl-1H-indol-2-yl)methyl]-2-(pyridin-4-yl)benzamide
A solution of 2-bromo-N-methyl-N-[(1-methyl-1H-indol-2-yl)methyl]benzamide (0.30 g, 0.84 mmole), pyridine-4-boronic acid (0.20 g, 1.63 mmole), tetrakis(triphenylphosphine)palladium(0) (29 mg, 0.025 mmole), and Cs2CO3 (1.10 g, 3.38 mmole) in 10:1 DME/H2O (25 mL) was degassed, then was heated under N2 overnight. The resulting mixture was concentrated in vacuo, and the residue was taken up in 10% NaOH solution. The mixture was extracted with CH2Cl2, and the combined organic extracts were washed with brine and dried (MgSO4). Flash chromatography on silica gel (3% MeOH/CH2Cl2) followed by preparative TLC (3% MeOH/CH2Cl2) gave the title compound (98 mg, 33%) as a white solid: 1H NMR (300 MHz, CDCl3) indicated an approximately 5:1 mixture of amide rotamers; for the major rotamer: 6 8.50-8.65 (m, 2H), 7.00-7.60 (m, 10H), 6.27 (s, 1H), 4.50-5.00 (m, 2H), 3.62 (s, 3H), 2.49 (s, 3H); for the minor rotamer: δ 8.65-8.75 (m, 2H), 7.00-7.60 (m, 10H), 6.12 (s, 1H), 4.50-5.00 (m, 2H), 3.41 (s, 3H), 2.86 (s, 3H); MS (ES) m/e 356 (M+H)+. Anal. Calcd for C23H21N3O.0.10H2O: C, 77.33; H, 5.98; N, 11.76. Found: C, 77.07; H, 5.98; N, 11.56.

reactant | 2-bromo-N-methyl-N-[(1-methyl-1H-indol-2-yl)methyl]benzamide | 0.84 mmole, 0.30 g | BrC1=C(C(=O)N(CC=2N(C3=CC=CC=C3C2)C)C)C=CC=C1 | C18H17BrN2O
reactant | pyridine-4-boronic acid | 1.63 mmole, 0.20 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Cs2CO3 | 3.38 mmole, 1.10 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.025 mmole, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME H2O | 25 mL | COCCOC.O
product | N-methyl-N-[(1-methyl-1H-indol-2-yl)methyl]-2-(pyridin-4-yl)benzamide | 98 mg, 33% | CN(C(C1=C(C=CC=C1)C1=CC=NC=C1)=O)CC=1N(C2=CC=CC=C2C1)C | C23H21N3O
